US06531502B1
Tetrakis(triphenylphosphine)palladium(0) (0.02 g, 0.02 mmol) was added to a solution of 3-(3-bromo-4-methoxybenzylidene)-1,3-dihydroindol-2-one (0.2 g, 0.61 mmol) in toluene (1 ml) and ethanol (1 ml), followed by addition of 2M aqueous sodium carbonate (1.2 ml, 2.4 mmol). To this mixture was added thiophene-3-boronic acid (0.09 g, 0.67 mmol) and the mixture was held at 100° C. in a sealed tube for 12 hours. The reaction was then poured into water (50 ml) and extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with saturated aqueous sodium bicarbonate (50 ml) and brine (50 ml), dried over magnesium sulfate and concentrated. Chromatography (silica, methylene chloride then 30-40% ethyl acetate/hexanes) afforded 0.1 g (50%) of 3-(4-methoxy-3-thiophen-3-ylbenzylidene)-1,3-dihydroindol-2-one as a yellow solid.

reactant | 3-(3-bromo-4-methoxybenzylidene)-1,3-dihydroindol-2-one | 0.61 mmol, 0.2 g | BrC=1C=C(C=C2C(NC3=CC=CC=C23)=O)C=CC1OC | C16H12BrNO2
reactant | sodium carbonate | 2.4 mmol, 2M, 1.2 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | thiophene-3-boronic acid | 0.67 mmol, 0.09 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | water | 50 ml | O | H2O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-methoxy-3-thiophen-3-ylbenzylidene)-1,3-dihydroindol-2-one | 0.1 g, 50% | COC1=C(C=C(C=C2C(NC3=CC=CC=C23)=O)C=C1)C1=CSC=C1 | C20H15NO2S
